US05686486
4-Hydroxy-3-(1 -phenylbutyl)-coumarin
To a mixture of 792 mg of 4-hydroxycoumarin and 809 mg of 1-phenyl- 1 -butanol of Preparation 12 in 25 mL of dioxane under an argon atmosphere is added 2.6 mL of boron trifluoride etherate. The resulting yellow solution is left to stir at room temperature overnight. The volatiles are removed under reduced pressure and the residue is partioned between diethyl ether and 1N sodium hydroxide. The basic aqueous phase is washed with diethyl ether, acidified to pH=1 with 6N hydrochloric acid. The resulting precipitant is repeatedly extracted with dichloromethane (methanol-chloroform co-solvents). The combined dichloromethane extracts are washed once with dilute sodium bicarbonate to remove most of the unreacted 4-hydroxycoumarin, then brine, dried (magnesium sulfate), and finally concentrated under reduced pressure. The residue is adsorbed onto silica and flash column chromatographed with 40% to 50% ethyl acetate in hexane to yield 183 mg of the title product as white crystals.

reactant | 4-hydroxycoumarin | 792 mg | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | 1-phenyl- 1 -butanol | 809 mg | C1(=CC=CC=C1)C(CCC)O | C10H14O
reactant | boron trifluoride etherate | 2.6 mL | B(F)(F)F.CCOCC
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-3-(1 -phenylbutyl)-coumarin | 183 mg | OC1=C(C(OC2=CC=CC=C12)=O)C(CCC)C1=CC=CC=C1 | C19H18O3
